US06545017B1
N-{3-[4-amino-2-(ethoxymethyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-1-yl]propyl}-N′-[(1R*,2S*)-2phenylcyclopropyl]urea
Using the method of Examples 94-105, trans-2-phenylcyclopropyl isocyanate was reacted with 1-(3-aminopropyl)-2-(ethoxymethyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-4-amine to provide the desired compound. The observed accurate mass was 437.2674.

reactant | trans-2-phenylcyclopropyl isocyanate | C1(=CC=CC=C1)[C@H]1[C@@H](C1)N=C=O | C10H9NO
reactant | 1-(3-aminopropyl)-2-(ethoxymethyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-4-amine | NCCCN1C(=NC=2C(=NC(=C(C21)C)C)N)COCC | C14H23N5O
product | N-{3-[4-amino-2-(ethoxymethyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-1-yl]propyl}-N′-[(1R*,2S*)-2phenylcyclopropyl]urea | NC1=NC(=C(C2=C1N=C(N2CCCNC(=O)N[C@H]2[C@@H](C2)C2=CC=CC=C2)COCC)C)C | C24H32N6O2
